US08114874B2
N-(3-(1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)-3-(imidazo[1,2-a]pyrazin-3-ylethynyl)-4-methylbenzamide mono hydrochloride salt
N-(3-(1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)-3-(imidazo[1,2-a]pyrazin-3-ylethynyl)-4-methylbenzamide (0.94 mmol) can be suspended in MeCN (10 ml) and heated with stirring to a temperature of 45 to 55° C. (hot plate temperature). Hydrochloric acid (1.1 eq 1M solution in EtOH) is added to obtain dissolution. Within a few minutes, a precipitate is allowed to form. The suspension can be cooled to ambient temperature and then filtered and washed with MeCN (1×1.5 ml liquors+1×1.5 ml fresh). The solid can be dried at 50° C. under vacuum to constant weight.

reactant | N-(3-(1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)-3-(imidazo[1,2-a]pyrazin-3-ylethynyl)-4-methylbenzamide | 0.94 mmol | N1(C=NC=C1)C=1C=C(C=C(C1)C(F)(F)F)NC(C1=CC(=C(C=C1)C)C#CC1=CN=C2N1C=CN=C2)=O | C26H17F3N6O
reactant | Hydrochloric acid | 1M, 1.1 eq | Cl | ClH
solvent | MeCN | 10 ml | CC#N | C2H3N
product | N-(3-(1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)-3-(imidazo[1,2-a]pyrazin-3-ylethynyl)-4-methylbenzamide mono hydrochloride salt | Cl.N1(C=NC=C1)C=1C=C(C=C(C1)C(F)(F)F)NC(C1=CC(=C(C=C1)C)C#CC1=CN=C2N1C=CN=C2)=O | InChI=1S/C26H17F3N6O.ClH/c1-17-2-3-19(10-18(17)4-5-22-14-32-24-15-30-7-9-35(22)24)25(36)33-21-11-20(26(27,28)29)12-23(13-21)34-8-6-31-16-34;/h2-3,6-16H,1H3,(H,33,36);1H
